US06951879B2
In analogy to example 21.1, the 4-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl]-butan-1-ol was treated with methanesulfonic acid chloride to yield the Methanesulfonic acid 4-[2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl]-butyl ester as yellowish oil, MS: 442 (M+).

reactant | 4-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl]-butan-1-ol | CC1=C(C2=C(S1)C=C(C=C2)CCCCO)C2=CC=C(C=C2)C(F)(F)F | C20H19F3OS
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 4-[2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yl]-butyl ester | CC1=C(C2=C(S1)C=C(C=C2)CCCCOS(=O)(=O)C)C2=CC=C(C=C2)C(F)(F)F | C21H21F3O3S2
